US05589474
(b) 10,11-Dihydrodibenzo[b,f][1,4]thiazepin-11-thione
Phosphorus pentasulphide (1.2 eq) was added to a solution of 10,11-dihydrodibenzo[b,f][1,4]thiazepin-11-one (1.14 g, 5 mmol) in pyridine (40 ml) and heated under reflux for 15 hr. The mixture was allowed to cool and poured into hydrochloric acid (1.3M) at 0° C. Filtration of the yellow precipitate and purification by chromatography on silica (eluting with dichloromethane/methanol, 99:1) followed by recrystallisation from ethanol gave the title compound as yellow crystals (700 mg, m.p. 245°-246° C., Rf 0.81, CH2Cl2/MeOH9:1).

reactant | Phosphorus pentasulphide | 1.2 eq | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | 10,11-dihydrodibenzo[b,f][1,4]thiazepin-11-one | 5 mmol, 1.14 g | C1=CC=CC2=C1C(NC1=C(S2)C=CC=C1)=O | C13H9NOS
reactant | hydrochloric acid | 1.3M | Cl | ClH
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | 10,11-Dihydrodibenzo[b,f][1,4]thiazepin-11-thione | 700 mg | C1=CC=CC2=C1C(NC1=C(S2)C=CC=C1)=S | C13H9NS2
